US09034866B2
Synthesis of Methyl 10-bromo-9-fluoro-3-(hydroxy(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)methyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate
Methyl 10-bromo-9-fluoro-3-(hydroxy(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)methyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate was prepared similarly according to the procedure in Example 9. Methyl 10-bromo-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate was reacted with 2-tetrahydropyran-2-ylpyrazole-3-carbaldehyde to afford 329 mg (43% yield) of the title compound.

reactant | Methyl 10-bromo-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate | BrC=1C(=CC2=C(C=3N(C4CC2C4)C=C(N3)C(=O)OC)C1)F | C15H12BrFN2O2
reactant | 2-tetrahydropyran-2-ylpyrazole-3-carbaldehyde | O1C(CCCC1)N1N=CC=C1C=O | C9H12N2O2
product | Methyl 10-bromo-9-fluoro-3-(hydroxy(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)methyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate | 329 mg, 43% yield | BrC=1C(=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)OC)C(C3=CC=NN3C3OCCCC3)O)C1)F | C24H24BrFN4O4
